US06258775B1
(a) Methyl 3-[1-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)cyclopropyl]benzoate.
Diiodomethane (1.1 ml, 13.7 mmol) is added dropwise, at 60° C., to a mixture of methyl 3-[1-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)vinyl]phenylcarboxylate (2.2 g, 6.3 mmol) and a 1M solution of diethylzinc in heptane (13 ml, 13 mmol) in dichloromethane (50 ml). The heating is continued for 15 h. The solution is extracted with ethyl acetate. After separation of the phases by settling, the organic phase is washed with 1N HCl solution and then with water, dried over anhydrous magnesium sulphate and concentrated.

reactant | Diiodomethane | 13.7 mmol, 1.1 ml | ICI | CH2I2
reactant | methyl 3-[1-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)vinyl]phenylcarboxylate | 6.3 mmol, 2.2 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=C)C=1C=C(C=CC1)C(=O)OC)C | C24H28O2
reactant | diethylzinc | C(C)[Zn]CC
reactant | heptane | 13 mmol, 13 ml | CCCCCCC | C7H16
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methyl 3-[1-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)cyclopropyl]benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1(CC1)C=1C=C(C(=O)OC)C=CC1)C | C25H30O2
